US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(2R/S)-2-(2-methylamino-carbonylethyl)pyrrolidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 1g from 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(2R/S)-2-(hydroxycarbonylethyl)pyrrolidin-1-ylcarbonyl]benzamide, TBTU, diisopropylethylamine, and methylamine in tetrahydrofuran. Yield: 35%; Rf value: 0.38 (silica gel: dichloromethane/ethanol=9:1); C25H27Cl2N5O3 (516.426); mass spectrum: (M+H)+=516/518/520 (chlorine isotope).

reactant | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(2R/S)-2-(hydroxycarbonylethyl)pyrrolidin-1-ylcarbonyl]benzamide | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)CCC(=O)O | C24H24Cl2N4O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine | CN | CH5N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(2R/S)-2-(2-methylamino-carbonylethyl)pyrrolidin-1-ylcarbonyl]benzamide | Yield: 35% | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)CC(NC)=C=O | C25H25Cl2N5O3
